US07214798B2
4.4. 2-(Methylamino)-2-oxoethyl 2-[1-(6-methyl-2-pyridyl)-4-piperidyl]ethylcarbamate
The process is performed according to the procedure described in Example 1 (step 1.5). Starting with 0.841 g (2.77 mmol) of 3-{2-[1-(6-methyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, obtained in step 4.3, and 6.9 ml (13.86 mmol) of a solution (2M) of methylamine in tetrahydrofuran, 0.598 g of pure product is obtained in the form of an oil, after chromatography on silica gel, eluting with a 95/5 mixture of dichloromethane and methanol. This oily residue is then taken up with a solution of hydrochloric acid (5N) in isopropanol and the salt formed is filtered off and then washed successively with acetone and then with ether.

reactant | 3-{2-[1-(6-methyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 2.77 mmol, 0.841 g | CC1=CC=CC(=N1)N1CCC(CC1)CCN1C(OCC1=O)=O | C16H21N3O3
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(Methylamino)-2-oxoethyl 2-[1-(6-methyl-2-pyridyl)-4-piperidyl]ethylcarbamate | 13.86 mmol, 2M, 6.9 ml | CC1=CC=CC(=N1)N1CCC(CC1)CCNC(OCC(=O)NC)=O | C17H26N4O3
